US08563573B2
To a deoxygenated solution of (6-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester (6.0 g, 16.9 mmol), 1-butyne (9 g, 169 mmol), CuI (160.1 mg, 0.84 mmol) and triethylamine (3.4 g, 33.2 mmol) in toluene (40 mL) and water (14 mL) was added Pd(PPh3)2Cl2 (592 mg, 0.84 mmol) under N2 in a autoclave. The mixture was heated to 70° C. and stirred for 24 h. The solid was filtered off and washed with ethyl acetate (60 mL×3). The filtrate was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 10/1) to give tert-butyl 4-(but-1-ynyl)-6-chloropyridin-3-ylcarbamate (3.5 g, 74%). 1H-NMR (CDCl3, 300 MHz) δ 9.13 (s, 1H), 7.22 (s, 1H), 6.98 (s, 1H), 2.53 (q, J=7.5 Hz, 2H), 1.54 (s, 9H), 1.29 (t, J=7.5 Hz, 3H).

reactant | (6-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 16.9 mmol, 6.0 g | C(C)(C)(C)OC(NC=1C=NC(=CC1I)Cl)=O | C10H12ClIN2O2
reactant | 1-butyne | 169 mmol, 9 g | C#CCC | C4H6
reactant | triethylamine | 33.2 mmol, 3.4 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 14 mL | O | H2O
catalyst | CuI | 0.84 mmol, 160.1 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.84 mmol, 592 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-(but-1-ynyl)-6-chloropyridin-3-ylcarbamate | 3.5 g, 74% | C(#CCC)C1=C(C=NC(=C1)Cl)NC(OC(C)(C)C)=O | C14H17ClN2O2
